US04880804
Part A: Preparation of 2-Butyl-6-methoxybenzimidazole
A mixture of 1.75 g of 4-methoxy-o-phenylenediamine, 2 mL of triethylamine and a catalytic amount of p-dimethylaminopyridine in 20 mL of methylene chrloride was cooled with ice. To the above solution was added 1.3 mL of valeryl chloride dropwise. The reaction mixture was stirred at room temperature for 2 hours and diluted with 100 mL of ethyl acetate, then washed with water and concentrated to give a crude product which was dissolved in 30 mL of absolute ethanol. After 2 mL of glacial acetic acid and a catalytic amount of p-toluenesulfonic acid were added to the above, the solution was refluxed for 18 hours. The reaction mixture was concentrated and the residue was purified by flash column chromatography on silica gel (100% EtOAc elution) to give 0.46 g of the desired product as a thick colorless oil.

reactant | 4-methoxy-o-phenylenediamine | 1.75 g | COC1=CC(=C(C=C1)N)N | C7H10N2O
reactant | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
reactant | valeryl chloride | 1.3 mL | C(CCCC)(=O)Cl | C5H9ClO
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | p-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-Butyl-6-methoxybenzimidazole | 0.46 g | C(CCC)C=1NC2=C(N1)C=C(C=C2)OC | C12H16N2O
